US05159079
5-Carboxy-2-piperidone
To a suspension of 10.0 g of 6-hydroxynicotinic acid in 200 ml water were added 6.5 g of sodium bicarbonate. The resulting solution was subjected to 500 psig hydrogen at 100° C. for 12 hours in the presence of 2.5 g ruthenium on alumina. The catalyst was removed by filtration. The filtrate was acidified to pH 4 with 6N HCl and evaporated to a colorless solid (~15 g ). The solid was treated with 40 ml methanol and filtered to remove most of the sodium chloride. The filtrate was evaporated to give 7.5 g of the title compound: MS m/z 143 (M+); 300-MHz 1H NMR (DMSO-d6) δ1.62-1.77 (m, 1 H), 1.83-1.97 (m, 1 H), 2.00-2.21 (m, 2 H), 2.23-2.35 (m, 1 H), 3.21 (d, J=8 Hz, 2 H), 7, 28 (s, 1 H).

reactant | 6-hydroxynicotinic acid | 10.0 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | sodium bicarbonate | 6.5 g | C([O-])(O)=O.[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | 200 ml | O | H2O
catalyst | ruthenium on alumina | 2.5 g | [Ru] | Ru
product | 5-Carboxy-2-piperidone | 7.5 g | C(=O)(O)C1CCC(NC1)=O | C6H9NO3
